US06747023B1
Lithium (4,5-dihydro-7H-pyrano[4,3-d]thiazol-2-yl)carboxylate
In a 200-mL three-necked flask, 4,5-dihydro-7H-pyrano[4,3-d]thiazole (1.14 g) was added and dissolved in ether (30 mL). After cooling to −78° C., 1.6M butyl lithium (6.6 mL) was added and the resulting mixture was stirred. After 20 minutes, a carbon dioxide gas was introduced. After about 15 minutes, the introduction was terminated. The reaction mixture was allowed to rise back to room temperature and concentrated under reduced pressure, whereby the title compound (1.65 g) was obtained as a colorless amorphous substance.

reactant | 4,5-dihydro-7H-pyrano[4,3-d]thiazole | 1.14 g | N1=CSC2=C1CCOC2 | C6H7NOS
reactant | butyl lithium | 1.6M, 6.6 mL | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ether | 30 mL | CCOCC | C4H10O
product | Lithium (4,5-dihydro-7H-pyrano[4,3-d]thiazol-2-yl)carboxylate | N1=C(SC2=C1CCOC2)C(=O)[O-].[Li+] | InChI=1S/C7H7NO3S.Li/c9-7(10)6-8-4-1-2-11-3-5(4)12-6;/h1-3H2,(H,9,10);/q;+1/p-1
